US07855194B2
2-(Piperidin-4-ylamino)-pyrimidine-5-carboxylic acid dihydrochloride
A solution of 2-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-pyrimidine-5-carboxylic acid (0.18 g, 0.56 mmol) in ethanol (5 mL) and 4 M HCl in dioxane (10 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 223.3 [M+H]+.

reactant | 2-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-pyrimidine-5-carboxylic acid | 0.56 mmol, 0.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)C(=O)O | C15H22N4O4
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(Piperidin-4-ylamino)-pyrimidine-5-carboxylic acid dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=C(C=N1)C(=O)O | InChI=1S/C10H14N4O2.2ClH/c15-9(16)7-5-12-10(13-6-7)14-8-1-3-11-4-2-8;;/h5-6,8,11H,1-4H2,(H,15,16)(H,12,13,14);2*1H
